US07238717B2
Procedure O: Production of 4-Chloro-2-phenylsulfanyl-phenylamine
To a suspension of 1.8 g of 2-benzylthio-4-chloro-nitrobenzene in 100 ml ethanol was added 2 g powdered iron and 20 mL of 0.33N NH4Cl. The mixture was heated at 70° C. for 6 hr. The mixture was cooled and filtered through a pad of Celite. The filtrate was condensed and purified by flash chromatography (hexane/ethyl acetate 4:1 as eluent) to yield 1.25 g of an oil. LC-MS showed a single peak with the expected (M+H+) of 236.

reactant | 2-benzylthio-4-chloro-nitrobenzene | 1.8 g | C(C1=CC=CC=C1)SC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C13H10ClNO2S
reactant | NH4Cl | 0.33N, 20 mL | [NH4+].[Cl-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
product | 4-Chloro-2-phenylsulfanyl-phenylamine | 1.25 g | ClC1=CC(=C(C=C1)N)SC1=CC=CC=C1 | C12H10ClNS
